US04101522
(D) Preparation of 4-t-butylazo-4-(p-t-butylthiophenoxy)valeric acid
A mixture of 167 grams (0.412 moles) of n-butyl 4-t-butylazo-4-(p-t-butylthiophenoxy)valerate and 34.4 grams (0.43 moles) of 50% NaOH were stirred in a 500 ml. round bottom flask, equipped with a condenser, for 4 hours at 85°-90° C. The reaction mixture was then cooled to room temperature and poured into 400 ml. water. The aqueous solution was extracted with 100 ml. of pentane to remove any unreacted ester and butyl alcohol and the pentane layer discarded. The aqueous layer was acidified to a pH of 3. The desired acid precipitated out of solution, was filtered off, washed with water and air dried. The dry product weighed 107 grams (74% yield).

reactant | n-butyl 4-t-butylazo-4-(p-t-butylthiophenoxy)valerate | 0.412 moles, 167 grams | C(C)(C)(C)N=NC(CCC(=O)OCCCC)(C)SC1=CC=C(C=C1)C(C)(C)C | C23H38N2O2S
reactant | NaOH | 0.43 moles, 34.4 grams | [OH-].[Na+]
solvent | water | O | H2O
product | 4-t-butylazo-4-(p-t-butylthiophenoxy)valeric acid | 74% yield | C(C)(C)(C)N=NC(CCC(=O)O)(C)SC1=CC=C(C=C1)C(C)(C)C | C19H30N2O2S
